US03957783
To a solution of 1.0 g of 2-acetylamino-3-benzoyl-4-methylthiophene in 20 ml of dimethylformamide is added 0.207 g of 63% sodium hydride. The mixture is stirred at room temperature for 30 minutes. Then 1.64 g of methyl iodide in 4.9 ml of dimethylformaide is added thereto. The mixture is stirred at room temperature for 3 hours, then poured into water, and extracted with benzene. The benzene extracts are washed with water, dried over sodium sulfate, and the solvent is removed under reduced pressure to give crystals, which are recrystallized from ether to give N-methyl-2-acetylamino-3-benzoyl-4-methylthiophene as crystals having a melting point of 121.5° - 122.5°C.

reactant | 2-acetylamino-3-benzoyl-4-methylthiophene | 1.0 g | C(C)(=O)NC=1SC=C(C1C(C1=CC=CC=C1)=O)C | C14H13NO2S
reactant | sodium hydride | 0.207 g | [H-].[Na+]
reactant | methyl iodide | 1.64 g | CI | CH3I
reactant | water | O | H2O
solvent | dimethylformamide | 20 ml | CN(C=O)C | C3H7NO
product | N-methyl-2-acetylamino-3-benzoyl-4-methylthiophene | CN(C=1SC=C(C1C(C1=CC=CC=C1)=O)C)C(C)=O | C15H15NO2S
